US05202324
Production of 6-(5-Sulfamoylpentylthio)imidazo[1,2-b]pyridazine
To a solution of 1.57 g of 5-chloropentanesulfonamide in 40 ml of methanol was added 40 ml of 2N-potassium hydrosulfide-ethanol solution, followed by heating at 70° C. for 45 minutes. To the reaction mixture was added 1.54 g of 28% sodium methoxide-methanol solution and 1.16 g of 5-chloroimidazo[1,2-b]pyridazine, which was refluxed for an hour. The reaction mixture was concentrated to dryness under reduced pressure. The residue was extracted with 40 ml of chloroform and 40 ml of 0.1N-hydrochloric acid. The aqueous layer was extracted three times with chloroform. Then the combined organic layers were dried over anhydrous magnesium sulfate and distilled to remove the solvent. The residue was subjected to a silica gel column chromatography, eluting with methanol-chloroform (1:35). The corresponding fractions were concentrated. The residue was recrystallized from methanol to obtain 0.62 g of the title compound.

reactant | 5-chloropentanesulfonamide | 1.57 g | ClCCCCCS(=O)(=O)N | C5H12ClNO2S
reactant | potassium hydrosulfide ethanol | [SH-].[K+].C(C)O
reactant | sodium methoxide methanol | 1.54 g | C[O-].[Na+].CO
reactant | 5-chloroimidazo[1,2-b]pyridazine | 1.16 g | ClN1N2C(=CC=C1)N=CC2 | C6H6ClN3
solvent | methanol | 40 ml | CO | CH4O
product | 6-(5-Sulfamoylpentylthio)imidazo[1,2-b]pyridazine | 0.62 g | S(N)(=O)(=O)CCCCCSC=1C=CC=2N(N1)C=CN2 | C11H16N4O2S2
